US08563735B2
3-cyano-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide
To (tetrahydro-2H-pyran-4-yl)methanol (0.206 g) in tetrahydrofuran (5 mL) was added sodium hydride (0.284 g) and the reaction stirred at room temperature for 20 minutes. The reaction was cooled to 0° C. and 3-cyano-4-fluorobenzenesulfonamide (0.355 g) in tetrahydrofuran (2 mL) was added dropwise and the reaction was allowed to warm to room temperature. After 3 hours, the reaction was poured into water, made acidic (pH=1) with 1N HCl and extracted with dichloromethane (2×75 mL). The organics were combined, washed with brine (50 mL), dried over magnesium sulfate, filtered and concentrated to give the title compound.

reactant | (tetrahydro-2H-pyran-4-yl)methanol | 0.206 g | O1CCC(CC1)CO | C6H12O2
reactant | sodium hydride | 0.284 g | [H-].[Na+]
reactant | 3-cyano-4-fluorobenzenesulfonamide | 0.355 g | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N | C7H5FN2O2S
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-cyano-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide | C(#N)C=1C=C(C=CC1OCC1CCOCC1)S(=O)(=O)N | C13H16N2O4S
